US07105679B2
1-[2-(4-Iodo-phenoxy)-ethyl]-piperidine(150 mg, 0.453 mmol) was dissolved in THF and cooled to −78° C. To the reaction mixture was then added n-butyl lithium (2M solution in pentane, 226 μl), slowly over 5 min. The reaction mixture was stirred for 1 h at −78° C. In a separate flask, 2,8-bis-(tert-butyl-dimethyl-silyloxy)-11,12-dihydro-5H-6,13-dioxa-benzo[3,4]cyclohepta[1,2-a]naphthalen-5-ol (28 mg, 0.053 mmol)) was dissolved in THF (1 mL) and added to the reaction mixture containing the 1-[2-(4-Iodo-phenoxy)-ethyl]-piperidine and n-butyl lithium, slowly over 5 min. The reaction mixture was stirred for additional 1 hr. The reaction mixture was quenched by MeOH (0.5 mL), treated with a saturated solution of ammonium chloride (30 mL) and then diluted with diethyl ether (25 mL). The organic layer was separated and washed with brine (15 mL). The organic layer was dried over anhydrous Na2SO4, filtered and the solvent evaporated to yield a crude oil. The crude oil was diluted with toluene (30 mL) and 1N HCl (6.0 mL) and then stirred for 30 min at room temperature. The reaction mixture was diluted with EtOAc (20 mL) and the organic layer was washed twice with water (20 ml) and with a saturated solution of NaHCO3 (10 ml). The organic layer was separated, dried over anhydrous Na2SO4, filtered and evaporated to yield 1-(2-{4-[2,8-Bis-(tert-butyl-dimethyl-silyloxy)-11,12-dihydro-5H-6,13-dioxa-benzo[3,4]cyclohepta[1,2-a]naphthalen-5-yl]-phenoxy}-ethyl)-piperidine as an oil.

reactant | 1-[2-(4-Iodo-phenoxy)-ethyl]-piperidine | 0.453 mmol, 150 mg | IC1=CC=C(OCCN2CCCCC2)C=C1 | C13H18INO
reactant | n-butyl lithium | 2M, 226 μl | C(CCC)[Li]
reactant | 2,8-bis-(tert-butyl-dimethyl-silyloxy)-11,12-dihydro-5H-6,13-dioxa-benzo[3,4]cyclohepta[1,2-a]naphthalen-5-ol | 0.053 mmol, 28 mg | C(C)(C)(C)[Si](OC1=CC2=C(C3=C(C4=CC=C(C=C4OC3O)O[Si](C)(C)C(C)(C)C)CCO2)C=C1)(C)C | C29H42O5Si2
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 1 mL | C1CCOC1 | C4H8O
solvent | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
solvent | HCl | 1N, 6.0 mL | Cl | ClH
solvent | EtOAc | 20 mL | CCOC(=O)C | C4H8O2
product | 1-(2-{4-[2,8-Bis-(tert-butyl-dimethyl-silyloxy)-11,12-dihydro-5H-6,13-dioxa-benzo[3,4]cyclohepta[1,2-a]naphthalen-5-yl]-phenoxy}-ethyl)-piperidine | C(C)(C)(C)[Si](OC1=CC2=C(C3=C(C4=CC=C(C=C4OC3C3=CC=C(OCCN4CCCCC4)C=C3)O[Si](C)(C)C(C)(C)C)CCO2)C=C1)(C)C | C42H59NO5Si2
